US05646308
A mixture of 0.14 g of 6-pentafluoroethyl-2,2-bis(fluoromethyl)-N-methyl-2H-1-benzopyran-4-carbothioamide, 0.31 g of ethyl iodide, 0.017 g of sodium hydride and 5 ml of tetrahydrofuran was refluxed with heating for 45 minutes. To the reaction mixture were added 0.081 g of cyanamide and 0.017 g of sodium hydride and the resultant mixture was refluxed with heating for 22 hours. To the reaction mixture was added a small amount of hydrochloric acid and the mixture was concentrated under reduced pressure. The resultant residue was subjected to silica gel column chromatography (developing solution, ethyl acetate:hexane=1:1) to obtain 0.07 g of N-cyano-6-pentafluoroethyl-2,2-bis(fluoromethyl)-N'-methyl-2H-1-benzopyran-4-amidine with a melting point of 178°-179° C.

reactant | 6-pentafluoroethyl-2,2-bis(fluoromethyl)-N-methyl-2H-1-benzopyran-4-carbothioamide | 0.14 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)C(NC)=S)C1)F | C15H12F7NOS
reactant | ethyl iodide | 0.31 g | C(C)I | C2H5I
reactant | sodium hydride | 0.017 g | [H-].[Na+]
reactant | cyanamide | 0.081 g | N#CN | CH2N2
reactant | sodium hydride | 0.017 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-cyano-6-pentafluoroethyl-2,2-bis(fluoromethyl)-N'-methyl-2H-1-benzopyran-4-amidine | 0.07 g | C(#N)NC(=NC)C1=CC(OC2=C1C=C(C=C2)C(C(F)(F)F)(F)F)(CF)CF | C16H12F7N3O
